US08383644B2
(S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (0.0139 g) was dissolved in THF (0.3 mL) and MeOH (0.3 mL) and 0.3 mL of 2.0 N LiOH was added at 0° C. and stirred at that temperature for 30 min. pH was adjusted to 6-7, extracted with EtOAc, dried (Na2SO4), evaporated the solvents and dried under vacco to get the title compound. LCMS (m/z): 798.

reactant | (S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 0.0139 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)C3=CC(=CC=C3)Cl)C(=O)C=3N=C(OC3C)C)=O | C47H43ClN4O7
reactant | MeOH | 0.3 mL | CO | CH4O
reactant | LiOH | 2.0 N, 0.3 mL | [Li+].[OH-]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | (S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | ClC=1C=C(C=CC1)C1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(=O)C=2N=C(OC2C)C)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C46H41ClN4O7
